US04492709
1. 3H-benzoxazol-2-one
38.4 cc (0.4 mol) of ethyl chloroformate are added, at a temperature between 0° and 10° C., to a solution of 38.4 g (0.35 mol) of o-aminophenol in 150 cc of pyridine. When the addition has ended, the reaction mixture is stirred for a further 2 hours and then poured into 1.5 liters of diethyl ether. The precipitate is filtered off. The ether in the filtrate is evaporated off on a rotary evaporator. The residue is heated to 180° C. in order to distill off the pyridine. After cooling, the residue is recrystallized from ethyl acetate. The melting point of the obtained compound is 136° C.

reactant | ethyl chloroformate | 0.4 mol, 38.4 cc | ClC(=O)OCC | C3H5ClO2
reactant | o-aminophenol | 0.35 mol, 38.4 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | diethyl ether | 1.5 liters | C(C)OCC | C4H10O
solvent | pyridine | 150 cc | N1=CC=CC=C1 | C5H5N
product | 3H-benzoxazol-2-one | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
